*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X6S(-55to105[deg])/4.70e+00[uF]/10[V]
* Murata P/N :GRT155C81A475ME13
* Property : C = 4.70e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRT155C81A475ME13 Port1 Port2
C01 Port1 N01 3.84e-06
R01 Port1 N01 1.06e+07
L02 N01 N02 1.50e-10
R03 N02 N03 4.43e-03
C04 N03 N04 4.22e-04
R04 N03 N04 5.42e+00
C05 N04 N05 4.03e-04
R05 N04 N05 1.95e+00
C06 N05 N06 4.07e-04
R06 N05 N06 3.51e-01
C07 N06 N07 4.40e-04
R07 N06 N07 7.12e-02
C08 N07 N08 3.79e-04
R08 N07 N08 1.66e-02
C09 N08 N09 2.28e-04
R09 N08 N09 4.00e-03
L10 N09 N10 2.39e-11
R10 N09 N10 1.16e-01
L11 N10 N11 3.40e-11
R11 N10 N11 2.84e-02
L12 N11 N12 1.50e-10
R12 N11 N12 1.09e-02
L13 N12 N13 7.33e-11
R13 N12 N13 8.37e-03
C14 N13 N14 3.68e-05
L14 N13 N14 1.72e-11
R14 N13 N14 2.57e-03
C15 N14 N15 7.07e-06
L15 N14 N15 4.27e-11
R15 N14 N15 4.29e-03
C16 N15 Port2 3.90e-11
L16 N15 Port2 1.10e-11
R16 N15 Port2 6.75e-01
.ENDS GRT155C81A475ME13
